US05710336
5,6-Dimethoxy-2-methylaminotetralin hydrochloride
14.0 g of 5,6-dimethoxy-2-methylamino-1-tetralone hydrochloride (0.051 mole), 400 ml of absolute ethanol, 10 ml of 1M methanolic HCl and 4.0 g of 5% Pd/C are placed into an autoclave (50% humidity), then the mixture is hydrogenated (P about 7 atm., T=80° C.) with stirring for 24 hours. The mixture is filtered, washing thoroughly the filtration cake with hot methanol, then the alcoholic solution is evaporated to dryness. The resulting solid is taken up into 150 ml of acetone, then the precipitate is filtered and dried under vacuum at 60° C. Yield: 10.8 g, 82% (moles), 77% (weight); M.p.=219°-220° C.

reactant | 5,6-dimethoxy-2-methylamino-1-tetralone hydrochloride | 0.051 mole, 14.0 g | Cl.COC1=C2CCC(C(C2=CC=C1OC)=O)NC
reactant | HCl | 1M, 10 ml | Cl | ClH
catalyst | Pd/C | 4.0 g | [Pd] | Pd
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 5,6-Dimethoxy-2-methylaminotetralin hydrochloride | Cl.COC1=C2CCC(CC2=CC=C1OC)NC | InChI=1S/C13H19NO2.ClH/c1-14-10-5-6-11-9(8-10)4-7-12(15-2)13(11)16-3;/h4,7,10,14H,5-6,8H2,1-3H3;1H
